### PR TITLE
Insert renaming assignments at export function boundaries

### PR DESCRIPTION
**Pull request by vbgl**
# Description

The compiler automatically introduces renaming assignments at function export boundaries. This gives more flexibility to the register allocation and makes more program accepted by the compiler. However, this may indtroduce unnecessary unwanted register-to-register “move” instructions. This can be  disabled using the `-noinsertrenaming` command-line flag.

# Checklist

- [x] Finish the correctness proof
- [x] Add a changelog entry in `changes` if the PR is a user-visible change
- [x] Add one or several tests to `compiler/tests` if it makes sense, especially if it is a bug fix
- [x] Update the documentation if needed

### CODE REVIEW

File: proofs/compiler/insert_renaming_proof.v [hunk 1]
```diff
@@ -0,0 +1,533 @@
...
+  truncatable true ty v'.
+Proof.
+  rewrite /truncate_val.
+  case: ty v => [ | | len | ws ] [] //=.
+  - 1, 3: by move => ? /ok_inj<-.
+  - 1, 2, 5: by case.
+  - by move => len' a'; t_xrbindP => a ok_a <-{v'}.
+    t_xrbindP => /= ws' w' w ok_w <- /=.
+    by rewrite cmp_le_refl orbT.
+Qed.
```
Comment (eponier) [inline proofs/compiler/insert_renaming_proof.v]: Here is a more compact proof
```
Lemma truncate_val_truncatable ty v v' :
  truncate_val ty v = ok v' →
  truncatable true ty v'.
Proof.
  by move=> /truncate_val_has_type <-; apply truncatable_type_of.
Qed.
```

File: proofs/compiler/insert_renaming_proof.v [hunk 2]
```diff
@@ -0,0 +1,533 @@
...
+
+Lemma truncate_val_vm_truncate_val ty a b :
+  truncate_val ty a = ok b →
+  vm_truncate_val ty b = vm_truncate_val ty a.
```
Comment (eponier) [inline proofs/compiler/insert_renaming_proof.v]: `vm_truncate_val ty b` is just `b`. I would find the statement
```
Lemma truncate_val_vm_truncate_val ty a b :
  truncate_val ty a = ok b →
  vm_truncate_val ty a = b.
```
more natural

File: proofs/compiler/insert_renaming_proof.v [hunk 3]
```diff
@@ -0,0 +1,533 @@
...
+  case: ifP; last by [].
+  move => /(cmp_le_antisym ws_le_ws') ->.
+  by rewrite zero_extend_u.
+Qed.
+
+Lemma truncate_val_uincl ty v0 v v' :
+  is_defined v →
+  truncate_val ty v0 = ok v →
+  value_uincl (vm_truncate_val ty v) v' →
+  ∃ v, truncate_val ty v' = ok v.
```
Comment (eponier) [inline proofs/compiler/insert_renaming_proof.v]: `truncate_val ty v0 = ok v` implies `is_defined v`, and here again `vm_truncate_val ty v` is just `v`.

I think a result similar to `value_uincl_truncate` would be nicer. I came up with the following code (the naming of the lemmas is not great, though). (note that `value_uincl_truncate` is now a simple corollary of the new `value_uincl_truncate_r`)

```
Lemma value_uincl_truncate_r_gen ty y x' :
  value_uincl x' y →
  is_defined x' → type_of_val x' = ty →
  exists2 y', truncate_val ty y = ok y' & value_uincl x' y'.
Proof.
  case: x' => [b|z|len a|ws w|//] /value_uinclE
    => [ -> | -> | [a2 -> hincl] | [ws2 [w2 [-> hincl]]] ] _ <-;
    rewrite /truncate_val /=.
  + by eexists; first by reflexivity.
  + by eexists; first by reflexivity.
  + rewrite WArray.castK.
    by eexists; first by reflexivity.
  rewrite (word_uincl_truncate hincl (truncate_word_u _)).
  eexists; first by reflexivity.
  by apply word_uincl_refl.
Qed.

Lemma value_uincl_truncate_r ty x y x' :
  value_uincl x' y →
  truncate_val ty x = ok x' →
  exists2 y', truncate_val ty y = ok y' & value_uincl x' y'.
Proof.
  move=> hincl htr.
  by apply (value_uincl_truncate_r_gen hincl (truncate_val_defined htr) (truncate_val_has_type htr)).
Qed.

Lemma value_uincl_truncate ty x y x' :
  value_uincl x y →
  truncate_val ty x = ok x' →
  exists2 y', truncate_val ty y = ok y' & value_uincl x' y'.
Proof.
  move=> hincl htr.
  have {}hincl := value_uincl_trans (truncate_value_uincl htr) hincl.
  by apply (value_uincl_truncate_r hincl htr).
Qed.
```

File: proofs/compiler/insert_renaming_proof.v (hunk 2 above)
Comment (eponier) [reply proofs/compiler/insert_renaming_proof.v]: (and maybe move it to values.v?)

File: proofs/compiler/insert_renaming_proof.v (hunk 3 above)
Comment (eponier) [reply proofs/compiler/insert_renaming_proof.v]: (to be inserted in values.v in place of the existing `value_uincl_truncate`)

File: proofs/compiler/insert_renaming_proof.v (hunk 2 above)
Comment (vbgl) [reply proofs/compiler/insert_renaming_proof.v]: Maybe that statement is more natural, but it is not the one I need…

File: proofs/compiler/insert_renaming_proof.v (hunk 1 above)
Comment (vbgl) [reply proofs/compiler/insert_renaming_proof.v]: Fixed. Thanks.

File: proofs/compiler/insert_renaming_proof.v (hunk 3 above)
Comment (vbgl) [reply proofs/compiler/insert_renaming_proof.v]: Done. Thanks.

However, in order to use the brand new `value_uincl_truncate_r`, I need to show that “`vm_truncate_val ty v` is just `v`”.

Comment (eponier) [reply proofs/compiler/insert_renaming_proof.v]:
```
Lemma truncate_val_unnamed_lemma ty v v' :
  truncate_val ty v = ok v' →
  vm_truncate_val ty v' = v'.
Proof.
  move=> htr.
  by apply (vm_truncate_val_eq (truncate_val_has_type htr)).
```

File: proofs/compiler/insert_renaming_proof.v (hunk 2 above)
Comment (eponier) [reply proofs/compiler/insert_renaming_proof.v]: The difference is just a `rewrite (vm_truncate_val_eq (truncate_val_has_type htr))`, but do as you wish.

File: proofs/compiler/insert_renaming_proof.v (hunk 3 above)
Comment (vbgl) [reply proofs/compiler/insert_renaming_proof.v]: Thanks.

File: proofs/compiler/insert_renaming_proof.v (hunk 2 above)
Comment (vbgl) [reply proofs/compiler/insert_renaming_proof.v]: Alright. I’ve defined your lemma and my corollary.

**Comment by vbgl** [comment]
Thanks for the feedback. The proof is now much cleaner.

**Review by bgregoir — APPROVED** [review]
This looks pretty cool.
It is independent from this PR, but I think in the same style, automatically define an inline function that rename its arguments and results for all internal functions can be also pretty useful.
